US05208375
A) Chloro(N-(2-methoxyethyl))acetamide, (1)
In a three-necked 2L round bottom flask fitted with two 500 mL addition funnels, containing 56.4 g (39.8 mL, 0.50 mole) chloroacetyl chloride in 400 mL dichloromethane and 20 g (0.50 mole) sodium hydroxide in 400 mL water, respectively, and a water-oooled condenser, was placed 35.7 g (41.3 mL, 0.48 mole) 2-methoxyethylamine, 100 mL water, 100 mL dichloro-methane. The reaction vessel was cooled to 0° C. by a salt-ice bath. The organic and aqueous solutions were allowed to add slowly, ~0.25mL per minute, to the reaction mixture. During the addition the pH of the water phase of the reaction was monitored and the rate of addition of the alkali solution adjusted so as to maintain pH=12. When the addition was complete, the mixture was allowed to warm to room temperature and stir overnight. The organic layer was removed by siphon and dried with magnesium sulfate for four hours. The mixture was filtered through #4 filter paper on a large Buchner funnel and the sulfate washed with 2×100 mL fresh dichloromethane. The combined filtrates were then placed in 2L round bottomed flask and the mixture distilled at 1 torr. Fractions collected from 55° C. to 60° C. were combined and analyzed by NMR. Yield 31.1 g (43% based on starting 2-methoxyethylamine). TLC (silica on glass, 2% methanol in dichloromethane) Rf =0.40. 1H(δ,CDCl,) 3.28(s,3H), 3.40(m,4H), 3.97(s,2H), 6.92(br, 1H). 13C{1H} (δ, CDCl3) 39.27, 42.32, 58.60, 70.54, 166.22.

reactant | chloroacetyl chloride | 0.50 mole, 39.8 mL, 56.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 0.50 mole, 20 g | [OH-].[Na+]
reactant | 2-methoxyethylamine | 0.48 mole, 41.3 mL, 35.7 g | COCCN | C3H9NO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
solvent | dichloro-methane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Chloro(N-(2-methoxyethyl))acetamide | ClCC(=O)NCCOC | C5H10ClNO2
